US05047548
1-Aziridinylcarbonyl-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
1(N-[2-Hydroxyethyl]carbamoyl)-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (1.0 g), triphenylphosphine (1.09 g) and diethyl azodicarboxylate (0.72 g) were stirred at room temperature for 20 hours in dry tetrahydrofuran (20 ml). The reaction mixture was then diluted with water (70 ml) and extracted with ethyl acetate (3×5 ml). The combined organic extracts were washed with saturated sodium chloride solution (2×20 ml), dried (MgSO4), and evaporated to a brown gum. This material was chromatographed on Merck "Kieselgel 60" silica, eluting with 5% by volume ethanol in ether increasing to 10% ethanol in ether. The eluted material, which was one compound as judged by thin-layer chromatography, was crystallized from ethyl acetate/n-pentane to give colorless crystals of the title compound, 441 mg, m.p. 151°-153° C.

reactant | 1(N-[2-Hydroxyethyl]carbamoyl)-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 1.0 g | OCCNC(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C14H16Cl2N4O3
reactant | triphenylphosphine | 1.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.72 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 70 ml | O | H2O
product | 1-Aziridinylcarbonyl-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | N1(CC1)C(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C14H14Cl2N4O2
